US08242133B2
A mixture of 1.30 g of 2-amino-5-trifluoromethylphenol, 0.9 g of isonicotinic acid, 1.83 g of WSC and 15 ml of pyridine was stirred while heating at 80° C. for three hours. The mixture was cooled to room temperature, and then water was poured. Precipitated solid was filtered and washed with water, and then dried under reduced pressure to give 1.5 g of N-(2-hydroxy-4-trifluoromethylphenyl)isonicotinamide.

reactant | 2-amino-5-trifluoromethylphenol | 1.30 g | NC1=C(C=C(C=C1)C(F)(F)F)O | C7H6F3NO
reactant | isonicotinic acid | 0.9 g | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | WSC | 1.83 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | N-(2-hydroxy-4-trifluoromethylphenyl)isonicotinamide | 1.5 g | OC1=C(C=CC(=C1)C(F)(F)F)NC(C1=CC=NC=C1)=O | C13H9F3N2O2
